US07939528B2
To a carbon disulfide solution (300 mL) containing AlCl3 (76.4 g, 572.6 mmol) at 0° C. was added a carbon disulfide solution (120 mL) of 3-(3,4-difluorophenyl)propanoyl chloride (33.4 g, 163.6 mmol) over 10 min. The solution was stirred for 30 min at 0° C. and heated to reflux for 4 hours. Upon cooling to room temperature the solution was carefully poured onto crushed ice. The carbon disulfide layer was separated and the aqueous layer extracted with ethyl acetate. The combined organic layers were dried over MgSO4 and the solvent removed in vacuo. The residual solid was purified by silica gel column chromatography (5-10% ethyl acetate/hexanes) yielding 19.3 g (114.9 mmol, 70% yield) of 5,6-difluoro-2,3-dihydro-1H-inden-1-one as a white solid. 1H NMR (400 MHz, CDCl3) delta ppm 7.50 (t, 1H, J=8.0 Hz), 7.24 (t, 1H, J=6.6 Hz), 3.09 (t, 2H, J=5.5 Hz), 2.72-2.69 (m, 2H).

reactant | AlCl3 | 572.6 mmol, 76.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-(3,4-difluorophenyl)propanoyl chloride | 163.6 mmol, 33.4 g | FC=1C=C(C=CC1F)CCC(=O)Cl | C9H7ClF2O
solvent | carbon disulfide | 120 mL | C(=S)=S | CS2
solvent | carbon disulfide | 300 mL | C(=S)=S | CS2
product | 5,6-difluoro-2,3-dihydro-1H-inden-1-one | 114.9 mmol, 19.3 g, 70% yield | FC=1C=C2CCC(C2=CC1F)=O | C9H6F2O
